US05576424
Preparation of 7-amino-4-chloromethylcoumarin:
A mixture of 7-carbethoxyamino-4-chloromethylcoumarin (2.81 g, 0.01 mole), concentrated sulfuric acid (10 mL) and glacial acetic acid (10 mL) is heated at 130° C. in an oil bath for 1 hour. On cooling, a yellow precipitate is deposited. The mixture is poured into 200 mL of ice-water and left overnight. The resulting solution is made slightly basic (pH 8) with dilute NaOH solution and is then cooled by the addition of ice chips. The yellow precipitate is filtered, washed with water and dried. The product is recrystallized from chloroform to give yellow needles. Yield: 79%.

reactant | 7-carbethoxyamino-4-chloromethylcoumarin | 0.01 mole, 2.81 g | C(=O)(OCC)NC1=CC=C2C(=CC(OC2=C1)=O)CCl | C13H12ClNO4
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 7-amino-4-chloromethylcoumarin | Yield: 79% | NC1=CC=C2C(=CC(OC2=C1)=O)CCl | C10H8ClNO2
